US08440689B2
A. cis-N-(2-Aminocyclohexyl)-2,2,2-trifluoroacetamide
cis-Cyclohexane-1,2-diamine (5.00 g, 43.9 mmol, 1.00 eq) was charged to a 250 mL three-neck round bottom flask equipped with an overhead stirrer and a thermocouple. Ethanol (50 mL) was added and the solution was cooled to <0° C. using an ice-brine bath. A solution of ethyl trifluoroacetate (6.23 g, 1.00 eq) in EtOH (25 mL) was added via a syringe pump over a one hour period. Once the addition was complete, the cooling bath was removed and the solution was slowly warmed to RT and stirred for 3.5 hours to afford the title compound in EtOH. Half (41 mL, about 21.9 mmol) of the total solution (about 82 mL) was carried into the next step.

reactant | cis-Cyclohexane-1,2-diamine | 43.9 mmol, 5.00 g, 1.00 eq | [C@@H]1([C@H](CCCC1)N)N | C6H14N2
reactant | ethyl trifluoroacetate | 6.23 g, 1.00 eq | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | Ethanol | 50 mL | C(C)O | C2H6O
product | cis-N-(2-Aminocyclohexyl)-2,2,2-trifluoroacetamide | N[C@@H]1[C@@H](CCCC1)NC(C(F)(F)F)=O | C8H13F3N2O
